US04698337
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer, 1.5 g.), conc. hydrochloric acid (0.6 g.), tetrahydrofuran (7.5 ml.) and methanol (15.0 ml.) was stirred at room temperature for 6 hours. After concentrating the resultant solution in vacuo, the residue was pulverized with a mixture of methanol and diisopropyl ether. The precipitates were collected by filtration, washed with diisopropyl ether and dried to give 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 1.36 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-formyloxyethoxyimino)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 1.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOCCOC=O | C18H18N6O10S2
reactant | hydrochloric acid | 0.6 g | Cl | ClH
reactant | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | methanol | 15.0 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid hydrochloride | 1.36 g | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOCCO | InChI=1S/C16H18N6O8S2.ClH/c17-15-19-7(5-32-15)8(21-30-2-1-23)11(24)20-9-12(25)22-10(14(26)27)6(3-29-16(18)28)4-31-13(9)22;/h5,9,13,23H,1-4H2,(H2,17,19)(H2,18,28)(H,20,24)(H,26,27);1H/t9?,13-;/m1./s1
